US06001831
Hydrogen chloride is passed into 1 g of 4-chloro-N-(ethoxycarbonylmethyl)anthranilic acid and 1.6 g of potassium cyanate in 20 ml of sulfolane at 50° C. until analysis by HPLC indicates complete conversion. The product is precipitated by addition of water, filtered off, washed with water and dried. 0.95 g (87%) of ethyl 1,2,3,4-tetrahydro-7-chloro-2,4-dioxoquinazolin-1-ylacetate is obtained.

reactant | Hydrogen chloride | Cl | ClH
reactant | 4-chloro-N-(ethoxycarbonylmethyl)anthranilic acid | 1 g | ClC=1C=C(C(C(=O)O)=CC1)NCC(=O)OCC | C11H12ClNO4
reactant | potassium cyanate | 1.6 g | [O-]C#N.[K+]
solvent | sulfolane | 20 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | ethyl 1,2,3,4-tetrahydro-7-chloro-2,4-dioxoquinazolin-1-ylacetate | 0.95 g, 87% | ClC1=CC=C2C(NC(N(C2=C1)CC(=O)OCC)=O)=O | C12H11ClN2O4
